US07074800B1
A solution of 7-(3-aminopropoxy)-4-(4-bromo-2-fluorophenoxy)-6-methoxyquinazoline (2.71 g, 6.4 mmol) and triethylamine (1.1 ml, 0.80 g, 7.9 mmol) in dichloromethane (15 ml) was treated with a solution of methanesulphonyl chloride (0.53 ml, 0.79 g, 6.9 mmol) in dichloromethane (10 ml) and stirred at ambient temperature, under nitrogen for 18 hours. The dichloromethane was then removed by evaporation and THF (4 ml) added. The resulting solution was treated with saturated aqueous sodium hydrogen carbonate solution (to pH 8), stirred vigorously for 30 minutes and the precipitate filtered, washed with water and dried to give 4-(4-bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methylsulphonylamino)propoxy)quinazoline (2.98 g, 93%).

reactant | 7-(3-aminopropoxy)-4-(4-bromo-2-fluorophenoxy)-6-methoxyquinazoline | 6.4 mmol, 2.71 g | NCCCOC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Br)F)OC | C18H17BrFN3O3
reactant | triethylamine | 7.9 mmol, 1.1 ml, 0.80 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 6.9 mmol, 0.53 ml, 0.79 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(4-bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methylsulphonylamino)propoxy)quinazoline | 2.98 g, 93% | BrC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCCNS(=O)(=O)C)C=C1)F | C19H19BrFN3O5S
